US09079861B2
To a solution of (R)-3-((S)-1,1-dimethylethylsulfinamido)-3-phenyl-N-m-tolylbutanamide (300 mg, 0.81 mmol) in MeOH (5 mL) was added 4M HCl/dioxane (3 mL, 12 mmol). The solution was stirred for 1 h and concentrated to give (R)-3-amino-3-phenyl-N-m-tolylbutanamide (218 mg, 90%) without purification.

reactant | (R)-3-((S)-1,1-dimethylethylsulfinamido)-3-phenyl-N-m-tolylbutanamide | 0.81 mmol, 300 mg | CC(C)([S@](=O)N[C@@](CC(=O)NC=1C=C(C=CC1)C)(C)C1=CC=CC=C1)C | C21H28N2O2S
reactant | HCl dioxane | 12 mmol, 4M, 3 mL | Cl.O1CCOCC1
solvent | MeOH | 5 mL | CO | CH4O
product | (R)-3-amino-3-phenyl-N-m-tolylbutanamide | 218 mg, 90% | N[C@@](CC(=O)NC=1C=C(C=CC1)C)(C)C1=CC=CC=C1 | C17H20N2O
